US04710491
N-Dodecyl-N-(D-mannopyranosyl)-stearic acid amide
The compound was prepared from D-mannose, dodecylamine and stearoyl chloride analogously to Example 11.

reactant | D-mannose | O=C[C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | dodecylamine | C(CCCCCCCCCCC)N | C12H27N
reactant | stearoyl chloride | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
product | N-Dodecyl-N-(D-mannopyranosyl)-stearic acid amide | C(CCCCCCCCCCC)N(C(CCCCCCCCCCCCCCCCC)=O)C1[C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C36H71NO6
